US07612067B2
Preparation of 3-[3-chloro-5-(5-fluoro-2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a −78° C. solution of 3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 0.72 mmol) and THF (8 mL) is added 1.7 M tert-BuLi (0.47 mL, 0.80 mmol). After 30 minutes the solution is transferred via a cannula into a solution of N-fluorobenzenesulfonamide (0.40 g, 1.25 mmol) and THF. After 30 minutes the solution warmed to ambient temperature. The solution is diluted with EtOAc (40 mL), washed with water (30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated. The solution is purified by ISCO (20%-30% EtOAc gradient) furnish the title compound (0.068 g, 0.16 mmol, 16%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.71-1.93 (m, 4H), 2.53 (s, 3H), 2.54 (s, 3H), 3.26-3.36 (m, 1H), 4.08 (d J=2.7 Hz, 3H), 6.75 (s, 1H), 7.97 (s, 1H). LC/MS (m/z): calcd. for C20H22ClFN6S (M+H)+: 433.2; found: 433.2.

reactant | 3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.72 mmol, 0.40 g | ClC1=C(SC(=C1)C=1N(N=CN1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C20H23ClN6S
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | tert-BuLi | 0.80 mmol, 1.7 M, 0.47 mL | [Li]C(C)(C)C
reactant | N-fluorobenzenesulfonamide | 1.25 mmol, 0.40 g | FNS(=O)(=O)C1=CC=CC=C1 | C6H6FNO2S
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 3-[3-chloro-5-(5-fluoro-2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.16 mmol, 0.068 g, 16% | ClC1=C(SC(=C1)C=1N(N=C(N1)F)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C20H22ClFN6S
